datasets/10k_Mayr_OG.csv
SMILES Labelled
"C1C[CH:32]=[CH:31][C+:20]1[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[Si:63]1(C)C[CH:11]([H:10])[CH2:62]1>>C1C[CH:32]=[CH:31][C:20]1([H:10])[C:41]1=[CH:42][CH:43]=[CH:44][CH:53]=[CH:52]1.C[Si:63]1(C)C[CH+:11][CH2:62]1 10,11=10,20"
"C1=CC=C(C[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]CC2=CC=CC=C2)=[O:23])C=C1.[N-:10]1[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]1>>C1=CC=C(C[O:33][C:22](=[N:21][N:20]([N:10]2[C:61](=[O:62])[NH:84][C:73](=[O:74])[CH:72]=[CH:71]2)[C:41](=[O:42])[O:43]CC2=CC=CC=C2)[O-:23])C=C1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:62]2[CH:61]=[N:10][CH:64]=[CH:63]2)C=C1.C[N:21]([S:20]C(F)(F)F)[S:32](C1=CC=CC=C1)(=[O:33])=[O:34]>>C[N-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34].FC(F)(F)[S:20][N+:10]1=[CH:61][N:62](C2=CC=CC=C2)[CH:63]=[CH:64]1 10=20;20,21=21"
"C[N:12](C)[N:11]=[CH2:10].F[C:43]1=[CH:44][CH:45]=[CH:46][C:41]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:51]2=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]2)=[CH:42]1>>C[N+:12](C)=[N:11][CH2:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1 10,11=10,20;12=11,12"
"CC[O:12][C:11](=[CH:10]C)[O:62]CC.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC[O+:12]=[C:11]([CH:10](C)[CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[O:62]CC 10,11=10,20;12=11,12"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[C:22](=[O:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1.[CH:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([CH:10]([C:11]#[N:12])[C:61]2=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]2)[C:21]2=[C:22]([O-:23])[O:39]C(C)(C)[O:33][C:31]2=[O:32])[CH:46]=[CH:45]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1=CC2=C(C=C1)[C:81](=[O:82])[N-:10][S:61]2(=[O:62])=[O:72].CC[O:34][C:32]([C:21](=[CH:20][C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)[C:22](=[O:23])[O:39]CC)=[O:33]>>CC[O:34][C:32]([C:21]([CH:20]([N:10]1[S:61](=[O:62])(=[O:72])C2=C(C=CC=C2)[C:81]1=[O:82])[C:41]1=[CH:42][C:43](Cl)=[CH:44][CH:45]=[CH:46]1)=[C:22]([O-:23])[O:39]CC)=[O:33] 10=20;20,21=21,22;22,23=23"
C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[N-]=[N+]=NC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([NH+:10]2CCC[C@H]2C(N=[N+]=[N-])(C2=CC=CC=C2)C2=CC=CC=C2)[CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1 10=20
CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1.[N:10]1=[CH:61][NH:62][CH:72]=[CH:71]1>>CN(C1=CC=CC=C1)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([N+:10]2=[CH:61][NH:62][CH:72]=[CH:71]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C3=CC=CC=C3)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1 10=20
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][CH:11]=[CH2:10].C[N+:21](C1=CC=CC=C1)=[CH2:20]>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[CH:11][CH2:10][CH2:20][N:21](C)C1=CC=CC=C1 10,11=10,20;12=11,12;20,21=21"
"C[C:10](=[C:11]=[N-:12])[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[C:10]([C:11]#[N:12])([CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][C:35](F)=[CH:36]1)[C:41]1=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]1)[C:61]1=[CH:62][CH:63]=[C:64]([N+:65](=[O:66])[O-:76])[CH:83]=[CH:82]1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N:12]1CC[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)[C:11]1=[CH:10]C1=CC=CC=C1>>CC(C)(C)C1=CC=CC(C(C)(C)C)=C1[N+:12]1=[C:11]([CH:10](C2=CC=CC=C2)[CH2:20][CH-:21][S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[N:63](C2=C(C(C)(C)C)C=CC=C2C(C)(C)C)CC1 10,11=10,20;12=11,12;20,21=21"
"CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[C:21]2[C:22](=[O:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1.C[Si](C)(C)[C:11](=[CH2:10])[C:62]1=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]1>>CN(C)[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH2:10][C+:11]([Si](C)(C)C)[C:62]2=[CH:63][CH:64]=[C:65](C)[CH:84]=[CH:83]2)[C:21]2=[C:22]([O-:23])C3=C(C=CC=C3)[C:32]2=[O:33])[CH:36]=[CH:35]1 10,11=10,20;20,21=21,22;22,23=23"
"CCCC[Si:11](CCCC)(CCCC)[H:10].CN1C(=O)C(CC2=CNC3=CC=CC=C23)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C>>CCCC[Si+:11](CCCC)CCCC.CN1C(=O)C(CC2=CNC3=CC=CC=C23)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)C1(C)C 10,11=10,20;20,21=21,22;22,23=23"
"C1CCCCC[C:11](=[CH2:10])CCCCC1.[CH:20]1=[CH:21][C:22](=[O:23])[O:43][C:31]1=[O:32]>>C1CCCCC[C+:11]([CH2:10][CH:20]2[CH:21]=[C:22]([O-:23])[O:43][C:31]2=[O:32])CCCCC1 10,11=10,20;20,21=21,22;22,23=23"
